US03983128
By treating the 4-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (prepared by combining the procedures of Examples 2b and 3a, m.p. 93°-94°) with lithium aluminium hydride as in Example 3b, 4-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol is obtained. Yield 82%, m.p. 85°-86°.

reactant | 4-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)OCC | C14H19N3O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol | Yield 82% | C(C)OC1=C2C(=NC=C1CO)N(N=C2C)CC | C12H17N3O2
